Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Ceclor / Erythromycin Base / Sulfa (Sulfonamides) 
/ Codeine / Doxycycline
 
Attending: ___.
 
Chief Complaint:
Left sided chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ without any cardiac RF hx of hyperlipidemia in the past, 7 
pack yr smoker p/w L-sided CP x ___escribed as 
"muscle spasm," nonradiating. First episode last night when 
attempting to sleep, reported as dull tooth ache like pain left 
breast, non radiation, associated with intermittent 
palpitations. No N/V/diaphoresis or syncope. This lasted < 1 
minute and resolved with massage of left breast. No associated 
SOB/n/diaphoresis. Last episode 13:30 when patient preparing for 
important meeting resolved within minutes and then returned. 
Took ASA 325 mg . Recent snow shoveling without any pain with 
exertion. Reports has not exercised in several months as 
increasing home and work stressors have made her "exhausted". No 
chest pain with walking but reports fatigue and leg pain with 
walking about 5 stairs not worsening. Pt had attributed it to 
deconditiong.  
.  
ED: VS 98.7 80 148/76 18 98%RA. EKG showed NSR, NA/NI, no ST-T 
changes. CK: 3001 MB: ___ MBI: 2.5 Trop-T: 0.11. Ativan, SL 
nitro, metoprolol given. Pt started on Heparin drip and admitted 
for further work up.  
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. Reports leg pain and fatigue when climbing stairs. All 
of the other review of systems were negative.  
.  
*** Cardiac review of systems is notable for absence of 
paroxysmal nocturnal dyspnea, orthopnea, + ankle edema 
occasionally, + intermittent palpitations, syncope or 
presyncope.  
 
Past Medical History:
Kidney stones,  
small left kidney cyst,  
large ovarian benign tumor at age ___ on the left resected,  
appendectomy,  
left knee cartilage surgery,  
bone spurs in her feet,  
elevated liver enzymes,  
elevated cholesterol
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS - 97.3, 110/70, 73, 18, 96% RA, 187 pounds  
Gen: Oriented x3 though sleepy after Ativan Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 10 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas. Trace 
edema.  
.  
Pulses:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
Admit Labs:
___ 03:25PM BLOOD WBC-5.9 RBC-4.65 Hgb-14.4 Hct-43.3 MCV-93 
MCH-31.0 MCHC-33.3 RDW-12.7 Plt ___
___ 03:25PM BLOOD Neuts-71.8* ___ Monos-3.8 Eos-1.5 
Baso-0.3
___ 03:25PM BLOOD ___ PTT-29.5 ___
___ 03:25PM BLOOD Glucose-93 UreaN-21* Creat-0.6 Na-139 
K-3.9 Cl-103 HCO3-25 AnGap-15
___ 03:25PM BLOOD CK(CPK)-3087*
___ 06:12PM BLOOD CK(CPK)-3001*
___ 12:40AM BLOOD CK(CPK)-2243*
___ 05:40AM BLOOD ALT-45* AST-87* LD(LDH)-385* 
CK(CPK)-2157* AlkPhos-74 TotBili-0.4
___ 03:25PM BLOOD CK-MB-85* MB Indx-2.8 cTropnT-0.13*
___ 06:12PM BLOOD cTropnT-0.11*
___ 06:12PM BLOOD CK-MB-74* MB Indx-2.5
___ 12:40AM BLOOD CK-MB-56* MB Indx-2.5 cTropnT-0.17*
___ 05:40AM BLOOD CK-MB-52* MB Indx-2.4 cTropnT-0.19*
___ 05:40AM BLOOD Triglyc-88 HDL-65 CHOL/HD-2.8 LDLcalc-101
.
CXR PA&LAT ___: No acute cardiopulmonary process.
.
TTE ___:
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Transmitral Doppler and tissue velocity 
imaging are consistent with Grade I (mild) LV diastolic 
dysfunction, but a normal left ventricular filling pressure 
(PCWP<12 mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 
IMPRESSION: Normal global and regional biventricular systolic 
function.  
.
EXCERCISE STRESS ___: This ___ year old woman was referred to 
the lab for the evaluation of atypical chest pain. The patient 
exercised for 10 
minutes on a modified ___ protocol and stopped for fatigue. 
The 
estimated peak MET capacity was 8.2 which represents an average 
exercise 
tolerance for her age. The patient denied any arm, neck, back, 
or chest 
discomfort throughout the procedure. There were no significant 
ST-T wave 
changes throughout exercise or recovery. The rhythm was sinus 
with no 
ectopy. The hemodynamic response to exercise was appropriate.   
IMPRESSION: No anginal type symptoms or significant ST-T wave 
changes. 
Nuclear report sent separately. 
.
MIBI ___:
The image quality is good. 
Left ventricular cavity size is normal. 
Resting and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. 
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 64%. 
IMPRESSION: 1. Normal myocardial perfusion. 2. Normal LV cavity 
size and
systolic function (EF 64%). 

 
Brief Hospital Course:
Patient is a ___ year old female with no other cardiac risk 
factors presenting with episode of atypical chest pain.    
.  
# Chest pain: Not with exertion, not relieved with rest. Not 
classical symptoms. Only last approx couple of minutes.  No EKG 
changes. Currently chest pain free. CK elevated far greater than 
trop but MB index within normal limits. Unlikely to be NSTEMI 
and heparin gtt started in ED was stopped.  Normal stress MIBI 
with good excercise capacity. No evidence of rhabdo.  CK trended 
down prior to discharge.  Patient was placed on aspirin, 
betablockers and ace-inhibitors till ruled out.  Will be 
discharged on baby aspirin. Scheduled a follow up appointment 
with PCP within one week of discharge.
.  
# Pump:  ___ have mild diastolic dysfunction on TTE.  Clinically 
does not have heart failure signs or symptoms.
.  
#. Rhythm: NSR. 
. 
# Abnormal LFTs: Unclear etiology. Within her baseline.  ___ be 
due to fatty liver disease. Being followed by ___ (GI) as 
out pt.
. 
# Comm: ___ ___  
.  
# Code: Full code  
 
Medications on Admission:
None 
 
Discharge Medications:
1. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Chest pain of unknown etiology, noncardiac
.
Secondary:
Hyperlipidemia
Mildly elevated liver enzymes of unknown etiology
Elevated CPK of uncertain cause, noncardiac

 
Discharge Condition:
Asymptomatic and hemodynamically stable.

Asymptomatic and hemodynamically stable.

 
Discharge Instructions:
You were admitted to ___ with 
chest pain.  You did not have a heart attack.  Your symptoms 
resolved prior to discharge.  You did not have any reversible 
areas of ischemia in your heart during the stress nuclear study.
.
Please take all the medications as written.
.
Please keep all the follow up appointments.
.
If you develop chest pain, shortness of breath or any other 
concerning symptoms, please call your primary care doctor or 
come to the Emergency Department.
 
Followup Instructions:
___